US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (0.033 g, 0.05 mmol), and piperazine (0.043 g, 0.5 mmol) were combined in CH2Cl2 (2 mL) and stirred for 30 min. Sodium triacetoxyborohydride (0.0318 g, 0.15 mmol) was added and the mixture stirred for 30 h. Aqueous workup was followed using a Gilson HPLC with a TFA system. The purified compound was taken up in EtOAc, washed 3× with 1 N NaOH, 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound as a white solid. LC-MS m/z 729.4 (M+H)+, 1.31 min (ret time); mp 135-138° C. Analytical HPLC shows 98.4% purity, (ret time 10.019 min).

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.05 mmol, 0.033 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | piperazine | 0.5 mmol, 0.043 g | N1CCNCC1 | C4H10N2
reactant | Sodium triacetoxyborohydride | 0.15 mmol, 0.0318 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[6-methyl-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCNCC2)CC | C43H52N8O3
